US07189750B2
Preparation of 4-acetylamino-N-[4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-yl]-benzamide (Pet-157)
Pet-157 was prepared according to the general procedure described hereinabove and the procedure described above for the preparation of Pet-154, using 4-acetylamino-benzoic acid and 4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-ylamine (Pet-10) as the starting materials, in an overall yield of 44%.

reactant | 4-acetylamino-benzoic acid | C(C)(=O)NC1=CC=C(C(=O)O)C=C1 | C9H9NO3
reactant | 4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-ylamine | CC=1N=C(SC1CCO[N+](=O)[O-])N | C6H9N3O3S
product | 4-acetylamino-N-[4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-yl]-benzamide | yield of 44% | C(C)(=O)NC1=CC=C(C(=O)NC=2SC(=C(N2)C)CCO[N+](=O)[O-])C=C1 | C15H16N4O5S
